US06127368
710 mg of 6-amino-β-carboline-3-carboxylic acid ethyl ester is mixed in 18 ml of water at 4° C. with 1.2 ml of concentrated hydrochloric acid. A solution of 210 mg of sodium nitrite in 20 ml of water is added in drops to the precipitated salt, and it is stirred for another 15 minutes at 4° C. This solution is added in drops at 4° C. to 410 mg of ethyl-2-methylacetoacetate and 1 ml of 50% KOH in 3 ml of ethanol and 6 ml of water, and it is stirred for another 3 hours. The reaction mixture is mixed with 50 ml of water and extracted with ethyl acetate. The organic phases are washed with water, dried, and concentrated by evaporation. 250 mg of 6-(1-ethoxy-carbonyl-ethylidenehydrazino)-β-carboline-3-carboxylic acid ethyl ester is obtained, which is processed without further purification.

reactant | 6-amino-β-carboline-3-carboxylic acid ethyl ester | 710 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N | C14H13N3O2
reactant | hydrochloric acid | 1.2 ml | Cl | ClH
reactant | sodium nitrite | 210 mg | N(=O)[O-].[Na+]
reactant | ethyl-2-methylacetoacetate | C(C)OC(C(C(=O)C)C)=O | C7H12O3
reactant | KOH | 1 ml | [OH-].[K+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 18 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 6 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 6-(1-ethoxy-carbonyl-ethylidenehydrazino)-β-carboline-3-carboxylic acid ethyl ester | 250 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N(N=CC=C=O)OCC | C19H18N4O4
